US09387200B2
a) 3-(4-Chloro-phenyl)-4-hydroxy-7-trimethylsilanylethynyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester
To a solution of 7-Bromo-3-(4-chloro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester (152.5 mg, 0.369 mmol) in THF (5.2 mL) were added Trimethylsilylacetylene (0.105 mL, 0.738 mmol), PdCl2(PPh3)2 (51.8 mg, 0.0738 mmol), CuI (28.1 mg, 0.147 mmol) and isopropylamine (0.32 mL, 2.28 mmol). The reaction mixture was refluxed for 16 h. After cooling to rt, the mixture was diluted with EtOAc (20 mL), and filtered. The filtrate was concentrated in vacuo and purified by flash chromatography on silica gel. Elution with 0-20% EtOAc/CH2Cl2, gave the desired product (60 mg) as white solid: MS (m/z) 431.1 (M+1).

reactant | 7-Bromo-3-(4-chloro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | 0.369 mmol, 152.5 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)SN=C2C2=CC=C(C=C2)Cl)O | C15H10BrClN2O3S
reactant | Trimethylsilylacetylene | 0.738 mmol, 0.105 mL | C[Si](C)(C)C#C | C5H10Si
reactant | isopropylamine | 2.28 mmol, 0.32 mL | C(C)(C)N | C3H9N
solvent | THF | 5.2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.0738 mmol, 51.8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.147 mmol, 28.1 mg | [Cu]I
product | 3-(4-Chloro-phenyl)-4-hydroxy-7-trimethylsilanylethynyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | 60 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)C#C[Si](C)(C)C)SN=C2C2=CC=C(C=C2)Cl)O | C20H19ClN2O3SSi
